US07947689B2
(6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(4-methyl-2-trifluoromethyl-6,7-dihydro-4H-thieno[3,2-c]pyridin-5-yl)-methanone
In close analogy to the procedure described in Example 1, 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid is reacted with 4-methyl-2-trifluoromethyl-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine to provide the title compound in moderate yield.

reactant | 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | BrC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4BrN3O2
reactant | 4-methyl-2-trifluoromethyl-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine | CC1NCCC2=C1C=C(S2)C(F)(F)F | C9H10F3NS
product | (6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(4-methyl-2-trifluoromethyl-6,7-dihydro-4H-thieno[3,2-c]pyridin-5-yl)-methanone | BrC=1C=NC=2N(C1)N=C(C2)C(=O)N2C(C1=C(CC2)SC(=C1)C(F)(F)F)C | C16H12BrF3N4OS
